US07592334B2
(d) 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde
A solution of 6-hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine (330 mg) in dichloromethane (30 mL)/THF (30 mL) was treated with manganese dioxide (730 mg) and stirred at room temperature. Further manganese dioxide was added after 1 h (730 mg) and 16 h (300 mg). After a total of 20 h the mixture was filtered through kieselguhr and the filtrate evaporated. The product was triturated with EtOAc/hexane (1:1) and collected to give a solid (180 mg); LC/MS (APCI−) m/z 195 ([M−H]−, 95%), 165 (100%).

reactant | 6-hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine | 330 mg | OCC=1C=CC=2SCC(NC2N1)=O | C8H8N2O2S
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 730 mg | [O-2].[O-2].[Mn+4]
product | 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | 180 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
